US06821971B2
Preparation of 2-(4-fluorophenyl)-3-(2-methylsulfanylpyrimidin-4-yl)-1-oxo-5,6,7,8-tetrahydro-1H-pyrazolo[1,2-a]pyridazine-5-(S)-carboxylic acid methyl ester (31):
To a solution of 2-(4-fluorophenyl)-3-(2-methylsulfanylpyrimidin-4-yl)-1-oxo-5,6,7,8-tetrahydro-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid, 30, in diethyl ether/ethyl acetate (2.5:1, 7o mL) is added freshly generated diazomethane in diethyl ether (5 mL). The reaction is stirred for 5 minutes then quenched by the addition of HOAc (0.5 mL). The resulting solution is washed with NaHCO3, brine, dried, and concentrated in vacuo to afford 1 g (98% yield) of the desired product as a light yellow solid.

reactant | 2-(4-fluorophenyl)-3-(2-methylsulfanylpyrimidin-4-yl)-1-oxo-5,6,7,8-tetrahydro-1H-pyrazolo[1,2-a]pyridazine-5-carboxylic acid | FC1=CC=C(C=C1)C1=C(N2N(CCCC2C(=O)O)C1=O)C1=NC(=NC=C1)SC | C19H17FN4O3S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | diethyl ether ethyl acetate | C(C)OCC.C(C)(=O)OCC
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | 2-(4-fluorophenyl)-3-(2-methylsulfanylpyrimidin-4-yl)-1-oxo-5,6,7,8-tetrahydro-1H-pyrazolo[1,2-a]pyridazine-5-(S)-carboxylic acid methyl ester | 1 g, 98% yield | COC(=O)[C@H]1N2N(CCC1)C(C(=C2C2=NC(=NC=C2)SC)C2=CC=C(C=C2)F)=O | C20H19FN4O3S
